US07732626B2
5-acetoxy-2-bromo-3-methylbenzyl acetate
To a solution of 4-bromo-3-(bromomethyl)-5-methylphenyl acetate (11.7 g, 36.3 mmol) in N,N-dimethylformamide (60 mL) was added sodium acetate (5.96 g, 72.6 mmol), and the mixture was stirred at 70° C. for 4 hr under nitrogen atmosphere. Ethyl acetate was added to the reaction mixture, and the mixture was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=0:100-25:75) to give the title compound (7.29 g, yield 67%) as a pale-yellow oil.

reactant | 4-bromo-3-(bromomethyl)-5-methylphenyl acetate | 36.3 mmol, 11.7 g | C(C)(=O)OC1=CC(=C(C(=C1)C)Br)CBr | C10H10Br2O2
reactant | sodium acetate | 72.6 mmol, 5.96 g | C(C)(=O)[O-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 5-acetoxy-2-bromo-3-methylbenzyl acetate | 7.29 g, yield 67% | C(C)(=O)OCC1=C(C(=CC(=C1)OC(C)=O)C)Br | C12H13BrO4
